US07495110B2
Stage 2: 5-[(diisobutylamino)methyl]-1-(3-{methyl[2-(2-pyridinyl)ethyl]amino}propyl)-N-(3,4,5-trimethoxyphenyl)-1H-benzimidazol-2-amine
3,4,5 trimethoxyphenylisothiocyanate (57 mg, 1.2 eq) and N-methylcyclohexylcarbodiimide-N-methyl polystyrene resin (acquired from Novabiochem; load 1.69 mmol/g, 501 mg, 4 eq) are added successively to a solution of 4-[(diisobutylamino)methyl]-N-(3-{methyl[2-(4-pyridinyl)ethyl]amino}propyl)-1,2-benzenediamine (90 mg, 1 eq) in tetrahydrofuran (2 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and aminomethyl polystyrene resin (acquired from Novabiochem, 2 eq) is added. After stirring for 4 hours at ambient temperature, the mixture is filtered on frit and the filtrate is concentrated under reduced pressure at 40° C. Purification by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 9:1) produces the expected compound in the form of a beige foam (92 mg, 83% yield).

reactant | 3,4,5 trimethoxyphenylisothiocyanate | 57 mg, 1.2 eq | COC=1C=C(C=C(C1OC)OC)N=C=S | C10H11NO3S
reactant | 4-[(diisobutylamino)methyl]-N-(3-{methyl[2-(4-pyridinyl)ethyl]amino}propyl)-1,2-benzenediamine | 90 mg, 1 eq | C(C(C)C)N(CC(C)C)CC=1C=C(C(=CC1)NCCCN(CCC1=CC=NC=C1)C)N | C26H43N5
reactant | aminomethyl polystyrene resin | 2 eq | N | H3N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-[(diisobutylamino)methyl]-1-(3-{methyl[2-(2-pyridinyl)ethyl]amino}propyl)-N-(3,4,5-trimethoxyphenyl)-1H-benzimidazol-2-amine | C(C(C)C)N(CC(C)C)CC1=CC2=C(N(C(=N2)NC2=CC(=C(C(=C2)OC)OC)OC)CCCN(CCC2=NC=CC=C2)C)C=C1 | C36H52N6O3
